US04000275
3-Methyl-6-(2,3-epoxybutyl)benzimidazo[2,1-b]quinazolin-12(6H)one is prepared with 3-methylbenzimidazo[2,1-b]quinazolin-12(6H)one and 1-bromo-2,3-epoxybutane.

reactant | 3-methylbenzimidazo[2,1-b]quinazolin-12(6H)one | CC1=CC=C2C(N3C(=NC2=C1)NC1=C3C=CC=C1)=O | C15H11N3O
reactant | 1-bromo-2,3-epoxybutane | BrCC1C(C)O1 | C4H7BrO
product | 3-Methyl-6-(2,3-epoxybutyl)benzimidazo[2,1-b]quinazolin-12(6H)one | CC1=CC=C2C(N3C(=NC2=C1)N(C1=C3C=CC=C1)CC1C(C)O1)=O | C19H17N3O2
